US08669266B2
(iv) 4-{(S)-4-Benzyloxy-2-[(4-tert-butoxycarbonylmethoxy-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester
To a solution of 900 mg 4-{(S)-4-Benzyloxy-2-[(4-hydroxy-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester in 6.7 ml of DMF, 587 mg of cesium carbonate and 351 mg of Bromo-acetic acid tert-butyl ester was added and the reaction mixture was stirred for 5 h at RT. Then, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The isolated crude product was pure enough for the next reaction step. Yield: 1.1 g.

reactant | 4-{(S)-4-Benzyloxy-2-[(4-hydroxy-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | 900 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2C(=C1)O)=O | C30H36N4O6
reactant | cesium carbonate | 587 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromo-acetic acid tert-butyl ester | 351 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | DMF | 6.7 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{(S)-4-Benzyloxy-2-[(4-tert-butoxycarbonylmethoxy-quinoline-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2C(=C1)OCC(=O)OC(C)(C)C)=O | C36H46N4O8
